US06384080B1
A mixture of N-(4-carboxybenzyl)-2-(cyclopentylamino)-5-nitrobenzamide (120 mg), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (90.0 mg) and 1-hydroxybenzotriazole (63.4 mg) in anhydrous dimethylformamide (2 mL) was stirred for an hour at ambient temperature. After addition of 28% ammonia solution (10 drops), the mixture was stirred for 15 hours at ambient temperature and poured into water. The resulting precipitates were collected by filtration, washed with water and purified by a silica gel column chromatography eluting with 10% methanol in chloroform. The obtained product was triturated with diisopropyl ether to give N-(4-carbamoylbenzyl)-2-(cyclopentylamino)-5-nitrobenzamide (107 mg) as yellow powders.

reactant | N-(4-carboxybenzyl)-2-(cyclopentylamino)-5-nitrobenzamide | 120 mg | C(=O)(O)C1=CC=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])NC2CCCC2)=O)C=C1 | C20H21N3O5
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 90.0 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 63.4 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | water | O | H2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | ammonia | 10 drops | N | H3N
product | N-(4-carbamoylbenzyl)-2-(cyclopentylamino)-5-nitrobenzamide | 107 mg | C(N)(=O)C1=CC=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])NC2CCCC2)=O)C=C1 | C20H22N4O4
